US07737166B2
4-Amino-3′-benzyloxy-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl (I-54)
Aqueous potassium carbonate solution (20% w/v, 6.07 ml), methanol (12.1 ml) were added to N-(3′-benzyloxy-5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide (I-53) (400 mg, 873 μmol), followed by stirring overnight at 70° C. After cooling, methanol was evaporated away under reduced pressure, saturated brine (50 ml) was added, the product was extracted with ethyl acetate (50 ml×2). The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to obtain the entitled compound (276 mg, 87%) as a colorless solid.

reactant | potassium carbonate | 6.07 ml | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3′-benzyloxy-5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide | 873 μmol, 400 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C(=C(C(=C1C)C#N)NC(C(F)(F)F)=O)OC)F | C24H18F4N2O3
solvent | methanol | 12.1 ml | CO | CH4O
product | 4-Amino-3′-benzyloxy-3-cyano-6-fluoro-5-methoxy-2-methylbiphenyl | 276 mg, 87% | NC1=C(C(=C(C(=C1OC)F)C1=CC(=CC=C1)OCC1=CC=CC=C1)C)C#N | C22H19FN2O2
